US08211908B2
To a solution of 0.12 g of (7-(1H-imidazol-1-yl)-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde in 1 mL of dichloromethane, a solution of 0.14 g of tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(piperidin-4-yl)carbamate in 1.4 mL of dichloromethane, and 23 μL of acetic acid and 0.13 g of sodium triacetoxyborohydride were added, and the mixture was stirred at room temperature for 1 hour 40 minutes. The reaction mixture was charged with chloroform, and a saturated aqueous sodium hydrogen carbonate solution and adjusted to pH 8.6, the organic layer was separated and the aqueous layer was extracted with chloroform. The organic layer and the extract were combined, the resultant solution was washed with water and a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. The resultant residue was purified by basic silica gel column chromatography using gradient elution with chloroform:methanol=19:1 to 93:7 to obtain 0.12 g of tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(1-(2-(7-(1H-imidazol-1-yl)-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate as a light yellow solid.

reactant | (7-(1H-imidazol-1-yl)-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde | 0.12 g | N1(C=NC=C1)C1=CN=C2C=CC(N(C2=C1)CC=O)=O | C13H10N4O2
reactant | tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(piperidin-4-yl)carbamate | 0.14 g | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCNCC2 | C18H27N3O4
reactant | sodium triacetoxyborohydride | 0.13 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.4 mL | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 23 μL | C(C)(=O)O | C2H4O2
product | tert-butyl (2,3-dihydro(1,4)dioxino(2,3-c)pyridin-7-ylmethyl)(1-(2-(7-(1H-imidazol-1-yl)-2-oxo-1,5-naphthyridin-1(2H)-yl)ethyl)piperidin-4-yl)carbamate | 0.12 g | O1CCOC=2C=NC(=CC21)CN(C(OC(C)(C)C)=O)C2CCN(CC2)CCN2C(C=CC1=NC=C(C=C21)N2C=NC=C2)=O | C31H37N7O5
